US08895313B2
2-(4-{(E)-2-[4-nitro-2-(2-fluoroethoxy)phenyl]ethenyl}phenyl)-6-methylimidazo[1,2-a]pyridine
Prepared as described in the Alkene Formation section using sodium hydride (60% dispersion in mineral oil, 27 mg, 0.67 mmol), diethyl[4-(6-methylimidazo[1,2-a]pyridin-2-yl)benzyl phosphonate (200 mg, 0.559 mmol) and 2-(2-fluoroethoxy)-4-nitrobenzaldehyde (119 mg, 0.559 mmol) in dry THF (15 ml) to give the title compound (174 mg, 74%) as an orange solid after work-up and flash chromatography (50:1 DCM/MeOH).

reactant | sodium hydride | 0.67 mmol, 27 mg | [H-].[Na+]
reactant | 4-(6-methylimidazo[1,2-a]pyridin-2-yl)benzyl phosphonate | 0.559 mmol, 200 mg | P(OCC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1)([O-])=O
reactant | 2-(2-fluoroethoxy)-4-nitrobenzaldehyde | 0.559 mmol, 119 mg | FCCOC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C9H8FNO4
reactant | DCM MeOH | C(Cl)Cl.CO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(4-{(E)-2-[4-nitro-2-(2-fluoroethoxy)phenyl]ethenyl}phenyl)-6-methylimidazo[1,2-a]pyridine | 174 mg, 74% | [N+](=O)([O-])C1=CC(=C(C=C1)/C=C/C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1)OCCF | C24H20FN3O3
